US05521179
To a solution of ethyl 5-tetrazolylacetate (1 g) (Lofquist et al. J. Amer. Chem. Soc. (1958), 80, 3908) in pyridine (6 mL) was added triphenylmethyl chloride (2.2 g) and the resulting solution allowed to stir for 3 h. The solvent was evaporated and the product crystallized from ether/hexane to give ethyl 3-triphenylmethyltetrazol-5-ylacetate as a white solid (2 g); TLC: Rf =0.5, ether:hexane (50:50).

reactant | ethyl 5-tetrazolylacetate | 1 g | N1N=NN=C1CC(=O)OCC | C5H8N4O2
reactant | triphenylmethyl chloride | 2.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 3-triphenylmethyltetrazol-5-ylacetate | 2 g | C1(=CC=CC=C1)C(N1N=NC(=N1)CC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N4O2
